US07592373B2
2.3.e. (1-pyrrolidin-1-ylindan-5-yl)propynoic Acid
Under an argon atmosphere at 0° C., 0.5 g (1.59 mmol) of 1-(5-iodoindan-1-yl)pyrrolidine and 123 mL (2 mmol) of propynoic acid are dissolved in 25 mL of acetonitrile. 0.66 mL (4.79 mmol) of triethylamine, 30 mg (0.16 mmol) of copper (I) iodide, and 80 mg (0.11 mmol) of ditriphenylphosphine palladium dichloride are added to this solution and the mixture is stirred for 2 hours, while the solution is allowed to come up to ambient temperature. The purification is carried out by preparative HPLC (eluant: dichloromethane/methanol/ammonia (8:2:0.2)). Yield 0.1 g (24.5% of theory); C16H17NO2 (M=255.31); calc.: molecular ion peak (M+H)+: 256; found: molecular ion peak (M+H)+: 256.

reactant | 1-(5-iodoindan-1-yl)pyrrolidine | 1.59 mmol, 0.5 g | IC=1C=C2CCC(C2=CC1)N1CCCC1 | C13H16IN
reactant | propynoic acid | 2 mmol, 123 mL | C(C#C)(=O)O | C3H2O2
reactant | triethylamine | 4.79 mmol, 0.66 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | copper (I) iodide | 0.16 mmol, 30 mg | [Cu]I
product | (1-pyrrolidin-1-ylindan-5-yl)propynoic Acid | N1(CCCC1)C1CCC2=CC(=CC=C12)C#CC(=O)O | C16H17NO2
